US08389527B2
A solution of N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)-6-(tetrahydro-2H-thiopyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (27 mg, 0.048 mmol) in DCM (0.5 mL) was treated with TFA (1.0 mL, 12.98 mmol) and stirred at room temperature for 1 hour and then concentrated to dryness. The crude reaction product was dissolved in a small amount of MeOH and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 254 nm). The product (retention time=36.913 minutes) was isolated and lyophilized to dryness to afford N-(2-chloropyridin-4-yl)-8-(cyclopropylamino)-6-(tetrahydro-2H-thiopyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (2.9 mg, 8.33%). HPLC Rt=4.481 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=443.9.

reactant | N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)-6-(tetrahydro-2H-thiopyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.048 mmol, 27 mg | ClC1=NC=CC(=C1)NC(=O)C1=CN=C2N1N=C(C=C2N(CC2=CC=C(C=C2)OC)C2CC2)NC2CCSCC2 | C28H30ClN7O2S
reactant | TFA | 12.98 mmol, 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(2-chloropyridin-4-yl)-8-(cyclopropylamino)-6-(tetrahydro-2H-thiopyran-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 2.9 mg, 8.33% | ClC1=NC=CC(=C1)NC(=O)C1=CN=C2N1N=C(C=C2NC2CC2)NC2CCSCC2 | C20H22ClN7OS
